### PR TITLE
Unification

### PR DESCRIPTION
**Pull request by Engreyight**

### CODE REVIEW

File: matching-logic/src/Experimental/Unification.v [hunk 1]
```diff
@@ -33,89 +33,381 @@ Open Scope ml_scope.
...
+      * mlApplyMeta membership_imp_equal_meta; auto. mlExactn 0.
+      * mlApplyMeta equal_imp_membership; auto. mlExactn 0.
+        Unshelve.
+        toMLGoal. wf_auto2.
+        (* clear h. *)
+        mlApplyMeta functional_pattern_defined; auto.
+        mlExactMeta Func2.
+    Defined.
+
+    Lemma free_evar_subst_id :
```
Comment (berpeti) [inline matching-logic/src/Experimental/Unification.v:174]: This lemma should be moved to `Substitution.v`.

File: matching-logic/src/Experimental/Unification.v [hunk 2]
```diff
@@ -33,89 +33,381 @@ Open Scope ml_scope.
...
+    Proof.
+      induction φ; intros x'; simpl; auto.
+      * case_match; subst; auto.
+      * rewrite IHφ1. now rewrite IHφ2.
+      * rewrite IHφ1. now rewrite IHφ2.
+      * now rewrite IHφ.
+      * now rewrite IHφ.
+    Qed.
+
+    Lemma foldr_ind {A B} (P : B -> Prop) (Q : A -> Prop) (f : A -> B -> B) (b : B) (l : list A) : P b -> Forall Q l -> (forall a b, Q a -> P b -> P (f a b)) -> P (foldr f b l).
```
Comment (berpeti) [inline matching-logic/src/Experimental/Unification.v:185]: These general lemmas could go into `Utils/stdpp_ext.v`.

File: matching-logic/src/Experimental/Unification.v [hunk 3]
```diff
@@ -33,89 +33,381 @@ Open Scope ml_scope.
...
+      split. exact H1.
+      exact (H H2).
+      destruct H1.
+      apply andb_true_iff.
+      split.
+      exact H1.
+      exact (H0 H2).
+    Defined.
+
+    Lemma foldr_map_thing {A B C : Type} (f : A -> B -> B) (g : C -> A) (x : B) (xs : list C) : foldr f x (map g xs) = foldr (fun c a => f (g c) a) x xs.
```
Comment (berpeti) [inline matching-logic/src/Experimental/Unification.v:221]: Rename this theorem. My suggestion for this one is `foldr_map`.

File: matching-logic/src/Experimental/Unification.v [hunk 4]
```diff
@@ -33,89 +33,381 @@ Open Scope ml_scope.
...
+    Proof.
+      induction xs.
+      reflexivity.
+      simpl. f_equal. exact IHxs.
+    Defined.
+
+    Lemma Forall_wf_thing {A} (t : A -> Pattern) l : Forall (well_formed ∘ t) l <-> wf (map t l).
```
Comment (berpeti) [inline matching-logic/src/Experimental/Unification.v:228]: Rename this theorem please! My suggestion: `Forall_map_wf`.

File: matching-logic/src/Experimental/Unification.v [hunk 5]
```diff
@@ -33,89 +33,381 @@ Open Scope ml_scope.
...
+    Proof.
+      intros. etransitivity. apply Forall_fold_right. unfold wf.
+      rewrite -> 2 foldr_map_thing, foldr_andb_equiv_foldr_conj.
+      reflexivity.
+    Defined.
+
+    Lemma mu_free_free_evar_subst :
```
Comment (berpeti) [inline matching-logic/src/Experimental/Unification.v:235]: This lemma should go into `Pattern.v`

File: matching-logic/src/Experimental/Unification.v [hunk 6]
```diff
@@ -33,89 +33,381 @@ Open Scope ml_scope.
...
+    Lemma pf_iff_equiv_sym_obj Γ A B i :
+      well_formed A -> well_formed B -> Γ ⊢i (A <---> B) ---> (B <---> A) using i.
+    Proof.
+      intros wfa wfb.
+      mlIntro.
+      mlDestructAnd "0".
+      mlSplitAnd; mlAssumption.
+    Defined.
+
+    Lemma free_evar_subst_chain :
```
Comment (berpeti) [inline matching-logic/src/Experimental/Unification.v:293]: This lemma should go to `Substitution.v`.

File: matching-logic/src/Experimental/Unification.v [hunk 7]
```diff
@@ -33,89 +33,381 @@ Open Scope ml_scope.
...
+      mu_free φ -> mu_free ψ ->
+      mu_free (free_evar_subst ψ x φ).
+    Proof.
+      induction φ; intros; simpl; auto.
+      * case_match; auto.
+      * rewrite IHφ1. 3: rewrite IHφ2. all: simpl in H; destruct_and! H; auto.
+      * rewrite IHφ1. 3: rewrite IHφ2. all: simpl in H; destruct_and! H; auto.
+    Qed.
+
+    Lemma extract_common_from_equivalence_r Γ a b c i :
```
Comment (berpeti) [inline matching-logic/src/Experimental/Unification.v:246]: The following 3 lemmas are only using propositional reasoning, they could be placed into `ProofMode/Propositional.v`.

File: matching-logic/src/Experimental/Unification.v [hunk 8]
```diff
@@ -33,89 +33,381 @@ Open Scope ml_scope.
...
+      * rewrite IHφ; by set_solver.
+      * rewrite IHφ; by set_solver.
+    Qed.
+
+    Definition get_fresh_evar (φ : Pattern) : sig (.∉ free_evars φ).
+    Proof.
+      exists (fresh_evar φ); auto.
+    Defined.
+
+    Lemma patt_free_evar_subst : forall x φ, (patt_free_evar x)^[[evar: x ↦ φ]] = φ.
```
Comment (berpeti) [inline matching-logic/src/Experimental/Unification.v:314]: This lemma should go to Substitution.v.

File: matching-logic/src/Experimental/Unification.v [hunk 9]
```diff
@@ -33,89 +33,381 @@ Open Scope ml_scope.
...
+    Proof.
+      intros.
+      simpl.
+      case_match.
+      reflexivity.
+      contradiction.
+    Defined.
+
+    Lemma extract_common_from_equality_r a b x Γ :
```
Comment (berpeti) [inline matching-logic/src/Experimental/Unification.v:323]: Use `p` instead of `x`, because `x` pragmatically means a variable. This lemma could go into `Definedness_ProofSystem.v`.

File: matching-logic/src/Experimental/Unification.v [hunk 10]
```diff
@@ -143,449 +434,924 @@ Section ProofSystemTheorems.
       mlExact "H1".
   Defined.
 
-  Corollary delete : forall φ φ' Γ,
-    well_formed φ -> well_formed φ'
-  ->
-    Γ ⊢ φ and φ' =ml φ' ---> φ
-    .
+  (* foldr_ind_set is more general *)
+  Lemma foldr_preserves_function_set {A : Type} (t : A -> Pattern) (P : Pattern -> Set) (f : A -> Pattern -> Pattern) x xs :
```
Comment (berpeti) [inline matching-logic/src/Experimental/Unification.v:438]: This could go into `stpp_ext.v`.

File: matching-logic/src/Experimental/Unification.v [hunk 11]
```diff
@@ -33,89 +33,381 @@ Open Scope ml_scope.
...
+    Proof.
+      intros.
+      apply fold_left_ind with (Q := mu_free ∘ t);
+      only 2: apply Forall_fold_right;
+      only 2: rewrite -> foldr_map_thing, foldr_andb_equiv_foldr_conj in H0;
+      auto.
+    Defined.
+
+  End corollaries.
+
```
Comment (berpeti) [inline matching-logic/src/Experimental/Unification.v:398]: Here (or at the beginning of the file), could you make a comment on the sources where the names come from (i.e., cite the two papers on unification).

Comment (berpeti) [reply matching-logic/src/Experimental/Unification.v:398]: By "names", I meant "Lemma_3", "Prop_3_left" etc.

File: matching-logic/src/Experimental/Unification.v [hunk 12]
```diff
@@ -143,449 +434,924 @@ Section ProofSystemTheorems.
...
   Proof.
-    intros u u' D. dependent induction D; intros WF.
-    * 
-  Admitted.
+    exact (const eq_refl).
+  Defined.
 
-  Theorem wf_unify_pattern :
-    forall u, wf_unification u -> well_formed (unification_to_pattern u).
+  Class UP (T : Type) := {
```
Comment (berpeti) [inline matching-logic/src/Experimental/Unification.v:614]: A short textual description could help here on what the fields of this class represent.

File: matching-logic/src/Experimental/Unification.v [hunk 13]
```diff
@@ -143,449 +434,924 @@ Section ProofSystemTheorems.
...
+
+  Tactic Notation "mlDecomposeAll" := do !
+    match goal with
+    | [ |- context[(mkMLGoal _ _ _ (patt_imp _ _) _)] ] => mlIntro
+    | [ |- context[mkNH _ ?x (patt_and _ _)] ] => mlDestructAnd x
+    end.
 
+  Section stdpp_but_for_set.
+
+    Lemma set_choose_or_empty' `{FinSet A C} (X : C) : (sig (.∈ X)) + (X ≡ ∅).
```
Comment (berpeti) [inline matching-logic/src/Experimental/Unification.v:660]: From the following (unadmitted) lemmas, those which are independent of the unification could go into `stdpp_ext.v`.

File: matching-logic/src/Experimental/Unification.v [hunk 14]
```diff
@@ -143,449 +434,924 @@ Section ProofSystemTheorems.
...
+  Defined.
 
-  (* 1x elimination *)
-  Fixpoint unify_step3 (u : Unification_problem) : Unification_problem :=
-  match u with
-  | [] => []
-  | (patt_free_evar x, p2)::xs => 
-  | (p1, p2)::xs => unify_step3 xs
-  end. *)
+  Section antiunification.
```
Comment (berpeti) [inline matching-logic/src/Experimental/Unification.v:1096]: The anti-unification developments can go into a separate file in the same folder (which could depend on this module if needed).

**Review by berpeti — CHANGES_REQUESTED** [review]
In general, the code is good this way, I only made some suggestions where to move the general lemmas. The anti-unification developments could be phrased as a separate PR. Also, if there are unnecessary comments (e.g., failed proof attempts), any `Search`, `Print`, `About`, and `Check` commands, these should be removed.

**Review by berpeti — APPROVED** [review]

**Comment by berpeti** [comment]
This PR closes #434. Partially solves #353.
